US06645990B2
1-[2-(3-Methoxyphenyl)thiazol-4-yl]-3-(6-piperidin-1-ylmethyl-pyridin-2-yl)urea
To a stirred solution of 2-(3-methoxyphenyl)-1,3-thiazole-4-carboxylic acid (0.17 g, 0.72 mmol) in toluene (10 mL) at RT and under N2 was added TEA (0.2 mL). After 5 min, (PhO)2PON3 (0.2 5 mL) was added and the reaction mixture was heated at 85° C. for 20 min followed by the addition of 6-(piperidylmethyl)-2-pyridylamine (0.21 g, 1.1 mmol). The resulting mixture was heated at reflux for 4 h using a Dean-Stark trap. The mixture was cooled to RT, concentrated by rotary evaporation and purified on silica gel (5:95 MeOH/CH2Cl2). The yellow solid obtained was dissolved in EtOAc (15 mL) and washed with a saturated solution of NH4Cl (aq). The organic phase was separated, dried over MgSO4, filtered and concentrated by rotary evaporation. The product was recrystallized from hexanes to afford the title compound as a white solid. EI-MS m/z 424 (M+H). Calc'd for C22H25N5O2S: 423.17.

reactant | 2-(3-methoxyphenyl)-1,3-thiazole-4-carboxylic acid | 0.72 mmol, 0.17 g | COC=1C=C(C=CC1)C=1SC=C(N1)C(=O)O | C11H9NO3S
reactant | (PhO)2PON3 | 5 mL | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | 6-(piperidylmethyl)-2-pyridylamine | 1.1 mmol, 0.21 g | N1(CCCCC1)CC1=CC=CC(=N1)N | C11H17N3
reactant | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(3-Methoxyphenyl)thiazol-4-yl]-3-(6-piperidin-1-ylmethyl-pyridin-2-yl)urea | COC=1C=C(C=CC1)C=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)CN1CCCCC1 | C22H25N5O2S
